Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: UROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
PENOSCROTAL INFECTION, URINARY INCONTINENCE, 
THROMBOCYTOPENIA/ANEMIA
 
Major Surgical or Invasive Procedure:
Surgeon:  ___, MD
PREOPERATIVE DIAGNOSIS:  Scrotal abscess.
POSTOPERATIVE DIAGNOSIS:  Scrotal and perirectal fluid 
collections.
PROCEDURE:  Incision and drainage of scrotal and perirectal 
abscess.

Surgeon: ___, MD 
PREOPERATIVE DIAGNOSIS:  Infected penile prosthesis with 
subcutaneous emphysema and possible left ischiorectal abscess.
POSTOPERATIVE DIAGNOSIS:  Infected penile prosthesis with
subcutaneous emphysema and possible left ischiorectal abscess.
PROCEDURE PERFORMED:  Incision and drainage of possible left
ischiorectal abscess.

 
History of Present Illness:
___ male w/ implantable penile prosthesis now s/p explant, 
re-implant and subsequent explant most recently on ___ 
(currently, there is no device in place, just residual swelling 
being managed with outpt antibiotics) w/ concern for ___ 
abcess on CT scan. 
 
Past Medical History:
Insertion Penile prosthesis, ___
Removal and replacment of infected penile prosthesis ___
Explant of replacement prosthesis ___

JAK2 positive Essential Thrombocythemia, followed by Dr ___ at ___
Essential thrombocytosis. 
Exercise-induced asthma 
Radiation therapy for acne in his youth resulting in 
hypothyroidism.
Hydrocele repair by Dr. ___ in early ___.  
Cholecystectomy.
Inguinal hernia repair.

 
Social History:
___
Family History:
His father had prostate cancer and lived well into his ___.

 
Physical Exam:
WDWN male, nad, avss
abdoment soft, nt/nd
extremities w/out edema, pitting, pain
PICC at right arm
hemiscrotum with surgical incison open with wick packing ___ 
iodoform gauze); wound edges clean and without evidence of 
infection
left ischial-buttock wound is clean, dry, intact and without 
evidence of infection. Packed with ___ iodoform gauze.
scrotum and phallus edematous but markedly improved compared to 
prior admission.
 
Pertinent Results:
___ 07:00AM BLOOD WBC-11.5* RBC-2.45* Hgb-8.8* Hct-26.8* 
MCV-109* MCH-35.8* MCHC-32.8 RDW-18.1* Plt ___
___ 05:23AM BLOOD WBC-9.4 RBC-2.34* Hgb-8.6* Hct-25.8* 
MCV-110* MCH-36.8* MCHC-33.4 RDW-18.6* Plt ___
___ 05:30PM BLOOD WBC-11.0# RBC-2.63* Hgb-9.5* Hct-28.5* 
MCV-108* MCH-36.1* MCHC-33.3 RDW-19.2* Plt ___
___ 05:30PM BLOOD Neuts-85.8* Lymphs-7.5* Monos-5.3 Eos-1.1 
Baso-0.3
___ 05:30PM BLOOD Hypochr-OCCASIONAL Anisocy-2+ 
Poiklo-NORMAL Macrocy-2+ Microcy-OCCASIONAL Polychr-OCCASIONAL
___ 07:00AM BLOOD Plt ___
___ 05:23AM BLOOD Plt ___
___ 05:30PM BLOOD Plt ___
___ 07:00AM BLOOD Glucose-94 UreaN-12 Creat-0.7 Na-138 
K-4.3 Cl-101 HCO3-29 AnGap-12
___ 05:23AM BLOOD Glucose-89 UreaN-14 Creat-0.7 Na-142 
K-4.2 Cl-105 HCO3-30 AnGap-11
___ 05:30PM BLOOD Glucose-120* UreaN-18 Creat-0.9 Na-140 
K-4.1 Cl-102 HCO3-30 AnGap-12
___ 07:00AM BLOOD Calcium-8.7 Phos-2.4* Mg-2.1
___ 05:23AM BLOOD Calcium-8.0* Mg-2.2
___ 05:45PM BLOOD Lactate-1.1
___ 06:42PM URINE Color-Yellow Appear-Hazy Sp ___
___ 06:42PM URINE Blood-NEG Nitrite-NEG Protein-30 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-8.5* Leuks-NEG
___ 06:42PM URINE RBC-6* WBC-3 Bacteri-FEW Yeast-NONE 
Epi-<1
___ 06:42PM URINE AmorphX-OCC
___ 06:42PM URINE Mucous-RARE

___ 11:19 pm SWAB      FLUID FROM SCROTAL ABSCESS SWAB. 
                            **FINAL REPORT ___

   GRAM STAIN (Final ___: 
      NO POLYMORPHONUCLEAR LEUKOCYTES SEEN. 
      NO MICROORGANISMS SEEN. 

   FLUID CULTURE (Final ___:    NO GROWTH. 
   ANAEROBIC CULTURE (Final ___:    NO GROWTH. 

___ 6:42 pm URINE  **FINAL REPORT ___
   URINE CULTURE (Final ___:    NO GROWTH. 

___ 5:30 pm BLOOD CULTURE     **FINAL REPORT ___
   Blood Culture, Routine (Final ___:    NO GROWTH. 

___ 5:20 pm BLOOD CULTURE    **FINAL REPORT ___
   Blood Culture, Routine (Final ___:    NO GROWTH. 

 
Brief Hospital Course:
Mr. ___ is a ___ male with implantable penile prosthesis 
(___) now status post explant and re-implant (___) and 
subsequent explant (___) who presented to the emergency 
department for further evaluation after treatment with ten days 
of intravenous antibiotics. On review of his history, he 
remarked on vague pelvic/sacral pain in recent weeks which he 
attributed to his long bike ride before his whole ordeal with 
the prosthesis explant began. Additionally, he noted in recent 
days some rectal pain and pressure that had significantly 
worsened.  He reported some significant constipation. He denied 
nausea, vomiting, fevers, chills, flank pain. CT scan was 
performed after arriving to the ED and this was concerning for 
left perianal abcess. Surgery/Colorectal service and infectious 
disease notified and involved in management. Mr. ___ was thus 
taken urgently to the operating room for exploration and 
incision and drainage of the surgical site and the perianal 
site. Dr. ___ incision and drainage of scrotal and 
perirectal abscess while Dr. ___ incision and 
drainage of possible left
ischiorectal abscess.  Please see respective operative notes for 
full details. Mr. ___ tolerated the procedure well and 
arrived the PACU with both incision areas packed with 
wicks/gauze and with foley catheter in place. He was continued 
on empiric vancomycin and meropenem and hydrated with 
intravenous fluids and pain control was with intravenous and 
oral medications. 

The remainder of his hospital course was unremarkable. He was 
followed by consult services and he was eventually converted 
back to intravenous cefepime and metronidazole therapy was 
initiated. Once he could tolerate daily dressing/wick changes 
with oral pain medications, he was discharged home with home 
infusion services and ___ for wound care. Explicit instructions 
were provided. His Foley catheter was removed prior to discharge 
and given his incontinence, condom catheter was placed to reduce 
risk of wound contamination with urine. He was discharged in 
stable condition, tolerating dressing changes with oral 
antibiotics and with a three week course of intravenous CEFEPIME 
with PO METRONIDAZOLE. He was given explicit instructions for 
follow up with hematology, infectious disease and urology. All 
of his questions were answered. 

 
Medications on Admission:
Aspirin 81 mg PO DAILY  This medication was stopped. Please 
discuss with Dr. ___ when to restart but hold for at least 
one week after surgery. 

Acetaminophen 1000 mg PO Q6H:PRN pain, fever
Amoxicillin-Clavulanic Acid ___ mg PO Q12H  This is a new 
medication to treat your infection 
CefePIME 2 g IV Q12H RX *cefepime [Maxipime]  2 gram  2 GM IV  
Q12hrs Disp #*42  Vial Refills:*0 This is a new medication to 
treat your infection.  
Docusate Sodium 100 mg PO BID 
RX *docusate sodium [Colace]  100 mg  ONE capsule(s) by mouth  
twice a day Disp #*60  Capsule Refills:*0 This is a new 
medication  
Heparin Flush (10 units/ml) 2 mL IV DAILY and PRN, line flush 
RX *heparin lock flush (porcine) [heparin lock flush]  10 
unit/mL  2 mL IV  DAILY & PRN, line flush Disp #*5  Vial 
Refills:*0 This is a new medication to treat your PICC line 
OxycoDONE (Immediate Release) ___ mg PO Q3H:PRN pain 
RX *oxycodone  5 mg  ___ tablet(s) by mouth  Q4hrs Disp #*40  
Tablet Refills:*0 This is a new medication to treat your  
Sarna Lotion 1 Appl TP QID:PRN pruritis  This is a new 
medication  
Senna 8.6 mg PO BID:PRN constipation  This is a new medication 
to treat your constipation 
Sodium Chloride 0.9% Flush 10 mL IV DAILY and PRN, line flush 
RX *sodium chloride 0.9 % [Normal Saline Flush]  0.9 %  10 mL IV 
 Daily & PRN PICC LINE USE Disp #*60  Syringe Refills:*0 This is 
a new medication to treat your IV line 
CHANGED Medications/Orders Physician ___ 
___ 1000 mg PO SUN, TUES, THURS, SAT DO NOT RESUME 
without explicit instructions from Dr. ___.  You were taking 
this medication at home but it has been HELD per hematology. 
Hydroxyurea 1500 mg PO ___, ___, ___ DO NOT RESUME 
with explicit instructions from Dr. ___.  You were taking 
this medication at home but it has been HELD per hematology.  
UNCHANGED Medications/Orders Physician ___ 
___ ___ PUFF IH Q4H:PRN SOB, wheezing  You were 
taking this medication at home and you should continue it at the 
same dose (how much) and frequency (how often).  
Citalopram 40 mg PO DAILY  You were taking this medication at 
home and you should continue it at the same dose (how much) and 
frequency (how often).  
Polyethylene Glycol 17 g PO DAILY:PRN Severe constipation  You 
were taking this medication at home and you should continue it 
at the same dose (how much) and frequency (how often) 
 
Discharge Medications:
1. Acetaminophen 1000 mg PO Q6H:PRN fever, pain 
2. Albuterol Inhaler 2 PUFF IH Q6H:PRN SOB 
3. Citalopram 40 mg PO DAILY 
4. Docusate Sodium 100 mg PO BID 
5. Heparin Flush (10 units/ml) 2 mL IV DAILY and PRN, line flush 

6. Senna 8.6 mg PO DAILY 
7. Sodium Chloride 0.9%  Flush 10 mL IV DAILY and PRN, line 
flush 
for PICC line flushing 
8. OxycoDONE (Immediate Release)  ___ mg PO Q4H:PRN pain 
RX *oxycodone 5 mg ___ tablet(s) by mouth Q4hrs Disp #*40 Tablet 
Refills:*0
9. CefePIME 2 g IV Q12H 
RX *cefepime [Maxipime] 2 gram 2 grams IV Q12hrs Disp #*42 Vial 
Refills:*0
10. MetRONIDAZOLE (FLagyl) 500 mg PO Q8H 
RX *metronidazole 500 mg ONE tablet(s) by mouth Q8hrs Disp #*63 
Tablet Refills:*0
11. Outpatient Lab Work
ALL LAB RESULTS SHOULD BE SENT TO:
ATTN: ___ CLINIC - FAX: ___

CEFEPIME, METRONIDAZOLE: CBC with differential, BUN, Cr, AST, 
ALT, TB, ALK PHOS

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Scrotal and perirectal fluid collections, penoscrotal infection

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
TAKE YOUR ANTIBIOTICS AS DIRECTED!!! DO NOT MISS DOSES.
-Follow up with ID and HEMATOLOGY as directed and scheduled. 

-Take the pain pills as directed about 30minutes before you 
anticipate the ___ dressing/wick changes. 

-You may shower before the dressing changes so that the "soiled" 
wicks/dressings can be removed and replaced.

-It is VERY IMPORTANT that you return to ___ clinic or ED 
if fevers return, swelling/pain/erythema worsens or if you 
develop purulent (pus) drainage. 

-ALWAYS call to inform, review and discuss any medication 
changes and your post-operative course with your primary care 
doctor.

-___ keep your phallus/scrotum elevated to facilitate edema 
resolution. 

-Note that as the swelling/edema of your phallus and scrotum 
resolves, the skin may start to "flake" off and/or peel; this is 
a normal "healing" process. 

-Shower once to twice per day to keep genitals clean, dry. Avoid 
wound contamination with urine.

-Wear comfortable, loose fitting briefs or boxer-briefs for 
support--they should be cotton and/or breathable

-You may shower, but do NOT bathe, swim or otherwise immerse 
your incision.

-Do not lift anything heavier than a phone book and avoid 
sports, vigorous physical activity (including sexual) and do not 
drive. Avoid stools/hard chairs and bicycles.

-DO NOT RIDE BIKES OF ANY SORT FOR AT LEAST 6 MONTHS OR UNTIL 
CLEARED BY FOLLOWUP BY ___ ___!

-Tylenol should be your first line pain medication, a narcotic 
pain medication has been prescribed for breakthough pain >4. 
Replace Tylenol with narcotic pain medication. Max daily Tylenol 
dose is 4gm, note that narcotic pain medication also contains 
Tylenol (acetaminophen)

-Do not drive or drink alcohol while taking narcotics and do not 
operate dangerous machinery

-Colace has been prescribed to avoid post surgical constipation 
and constipation related to narcotic pain medication, 
discontinue if loose stool or diarrhea develops. Colace is a 
stool "softener"- it is NOT a laxative. Senokot is a gentle 
laxative that may be used to facilitate smooth bowel movements.

-Resume all of your home medications, except as noted.

-If you have fevers > 101.5 F, vomiting, or increased redness, 
swelling, or discharge from your incision, call your doctor or 
go to the nearest emergency room.
 
Followup Instructions:
___